US07196079B2
A solution of (3R)-3-amino-1-ethyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine oxalic acid salt (27.6 mg, 0.0747 mmol) and p-nitrophenylchloroformate (15.1 mg, 0.0747 mmol) was dissolved in tetrahydrofuran (0.5 mL), and cooled to 0° C. under argon. Triethylamine (10.4 uL, 0.0747 mmol) was added and the reaction stirred for 1 h. Additional triethylamine (26.0 uL, 0.186 mmol) was added, along with 3-(4-piperidinyl)-3,4 dihydroquinazolin-2(1H)-one hydrochloride (20.0 mg, 0.0747 mmol) in dimethylsulfoxide (0.5 mL). The reaction was allowed to warm to room temperature and stirred overnight. The crude product was purified by reverse phase HPLC (C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid gradient elution), isolating 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)-N-[(3R)-1-ethyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide (10.0 mg) MS 537 (M+1) and 4-(2-oxo-1,4-dihydro-4-hydroxyquinazolin-3(2H)-yl)-N-[(3R)-1-ethyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide (5 mg) MS 535 (M−17).

reactant | (3R)-3-amino-1-ethyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine oxalic acid salt | 0.0747 mmol, 27.6 mg | C(C(=O)O)(=O)O.N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC)=O
reactant | Triethylamine | 0.0747 mmol, 10.4 uL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.186 mmol, 26.0 uL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-piperidinyl)-3,4 dihydroquinazolin-2(1H)-one hydrochloride | 0.0747 mmol, 20.0 mg | Cl.N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)-N-[(3R)-1-ethyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide | 10.0 mg | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC)=O | C31H32N6O3
